"CDcompM18"
.lib C18.lib
.source V1
.detector V_out
.lgref Gm_M1_X1
C1 out 0 C value={C_ell} vinit=0
C2 2 0 C value={C_phz} vinit=0
R1 1 2 R value={R_s} noisetemp=0 noiseflow=0 dcvar=0 dcvarlot=0
V1 1 0 V value=0 noise=0 dc=0 dcvar=0
X1 0 2 out 0 CMOS18N W={W} L={L} ID={ID}
.end